US06710056B2
A mixture of 460 mg of ethyl 4-(t-butoxycarbonylamino)-2-hydroxybenzoate, 300 mg of cyclopentanol, 1.5 g of diethyl azodicarboxylate (40% solution in toluene), 900 mg of triphenylphosphine and 10 ml of tetrahydrofuran was stirred at room temperature for 3 days. The solvent was evaporated and the residue was purified by the silica gel chromatography (ethyl acetate/hexane) to obtain crude ethyl 4-(t-butoxycarbonylamino)-2-cyclopentyloxybenzoate. A mixture of this crude product, 20 ml of ethanol and 5 ml of 1 M aqueous sodium hydroxide solution was stirred at room temperature overnight. After the treatment with ethyl acetate as the extracting solvent in an ordinary manner, the title compound was obtained.

reactant | ethyl 4-(t-butoxycarbonylamino)-2-hydroxybenzoate | 460 mg | C(C)(C)(C)OC(=O)NC1=CC(=C(C(=O)OCC)C=C1)O | C14H19NO5
reactant | cyclopentanol | 300 mg | C1(CCCC1)O | C5H10O
reactant | diethyl azodicarboxylate | 1.5 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 900 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | ethyl 4-(t-butoxycarbonylamino)-2-cyclopentyloxybenzoate | C(C)(C)(C)OC(=O)NC1=CC(=C(C(=O)OCC)C=C1)OC1CCCC1 | C19H27NO5
